US04988681
Production of ethyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate
A solution of 107 mg (0.31 millimole) of ethyl (Z)-3-cyclohexyl-2-(ethoxyisobutylphosphinoyl)methylpropenoate in 1.0 ml of 4N HCl-butyl acetate was heated in a sealed tube at 100° C for 2 hours. After cooling, the solvent was evaporated under reduced pressure, and the residue was purified by "dry-column" flash chromatography 15 g of silica gel 60 made by E. Merck & Co.; chloroform-methanol-acetic acid (50:1:1)] to give 91 mg (yield 94%) of the captioned compound as a colorless oil.

reactant | ethyl (Z)-3-cyclohexyl-2-(ethoxyisobutylphosphinoyl)methylpropenoate | 0.31 millimole, 107 mg | C1(CCCCC1)\C=C(\C(=O)OCC)/CP(=O)(CC(C)C)OCC | C18H33O4P
reactant | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
solvent | HCl butyl acetate | 4N, 1.0 ml | Cl.C(C)(=O)OCCCC
product | ethyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate | 91 mg, yield 94% | C1(CCCCC1)\C=C(\C(=O)OCC)/CP(=O)(CC(C)C)O | C16H29O4P
